US04493843
Perchloric acid (3 ml) was added to a hot solution of 2-(n-pentadecyl)indole-5-carboxylic acid in glacial acetic acid (60 ml) and the mixture was hydrogenated at normal pressure using palladium on charcoal (5% w/w, 0.7 g) as catalyst. After 3.5 hours the hot mixture was filtered and the residue was washed with hot glacial acetic acid (30 ml). The pH of the combined filtrates was adjusted to 6 with 10% w/v sodium hydroxide solution. The mixture was extracted with diethyl ether (2×75 ml) and the ether solution was dried over magnesium sulphate. The solution was treated with a saturated solution of hydrogen chloride gas in ethanol to precipitate the hydrochloride. The solid was collected and recrystallised from isopropanol to give (RS)-2-(n-pentadecyl)indoline-5-carboxylic acid hydrochloride (5.6 g) as a white solid, m.p. 165°-170° C. with decomposition.

reactant | Perchloric acid | 3 ml | Cl(=O)(=O)(=O)O | ClHO4
reactant | 2-(n-pentadecyl)indole-5-carboxylic acid | C(CCCCCCCCCCCCCC)C=1NC2=CC=C(C=C2C1)C(=O)O | C24H37NO2
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on charcoal | 0.7 g | [Pd] | Pd
product | (RS)-2-(n-pentadecyl)indoline-5-carboxylic acid hydrochloride | 5.6 g | Cl.C(CCCCCCCCCCCCCC)C1NC2=CC=C(C=C2C1)C(=O)O | InChI=1S/C24H39NO2.ClH/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-22-19-21-18-20(24(26)27)16-17-23(21)25-22;/h16-18,22,25H,2-15,19H2,1H3,(H,26,27);1H
